2106-06-09 07:37:00 Physician Resident Progress Note
Chief Complaint: hypotension
   24 Hour Events:
   Plastics consulted, they do not feel that the sacral decubitus ulcer is
   the likely source of his possible infection.  Wound cultures obtained.
   -Urine cultures growing >100,000 GNR's, tobramycin started with once
   daily dosing.  Tobramycin level will be drawn 10 hrs post dose per
   protocol
   -ESR/CRP mildly elevated 75/58.4
   -Third set of cardiac enzymes baseline with CK=145 and troponin=0.18
   -Diet changed to thick nectar liquids per speech and swallow evaluation
   -BP responded to fluids, received a total of 3.5L NS, with SBP 90-100,
   no central line placed, PICC left in place
   -[**Last Name (un) **] stim: 14.6-->27
   -AM labs showing hypokalemia, hypomagnesemia, which I repleted.  He was
   also low yesterday and was never repleted.  HCT 22, likely dilutional
   component given large volume IVF.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-6-8**] 08:00 PM
   Tobramycin - [**2106-6-8**] 09:40 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-6-9**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-9**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 88 (68 - 103) bpm
   BP: 87/63(68) {73/44(51) - 110/78(165)} mmHg
   RR: 21 (9 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 76 kg
   Height: 71 Inch
             Total In:
                                                                  4,422 mL
                                                                    836 mL
   PO:
                                                                    400 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  4,022 mL
                                                                    776 mL
   Blood products:
   Total out:
                                                                  2,525 mL
                                                                  1,140 mL
   Urine:
                                                                  2,525 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,897 mL
                                                                   -304 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   317 K/uL
   7.3 g/dL
   92 mg/dL
   0.4 mg/dL
   20 mEq/L
   2.8 mEq/L
   4 mg/dL
   116 mEq/L
   143 mEq/L
   22.5 %
   4.7 K/uL
        [image002.jpg]
                             [**2106-6-8**]  02:20 AM
                             [**2106-6-8**]  07:21 AM
                             [**2106-6-8**]  02:53 PM
                             [**2106-6-9**]  03:25 AM
   WBC
   6.2
   4.7
   Hct
   26.7
   22.5
   Plt
   226
   317
   Cr
   0.4
   0.4
   TropT
   0.15
   0.18
   Glucose
   83
   92
   Other labs: PT / PTT / INR:38.5/38.6/4.1, CK / CKMB /
   Troponin-T:145/6/0.18, Ca++:7.3 mg/dL, Mg++:1.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   68-year-old man with severe shock (source most likely decub, but UTI
   and PICC line also in DDx) on a background history of T4 paraplegia
   (?myelitis) complicated by decubiti, neurogenic bladder, PEs and UTIs.
   Severe sepsis
     * Source control
 Try to get PIVs.  If he remains fluid-responsive,
       would then pull PICC line.  If not, will need CVL.   Ask plastics
       (who knows him well) to consult about decub with possible abscess
       and osteomyelitis.
     * ABX
 vanco (MRSA), Zosyn (GNR based on prior Cx).  No evidence for
       C diff at present.
         He does not have a clinical syndrome consistent with
   pneumonia.  His CT findings are suggestive of aspiration and warrant
   follow-up.  Zosyn is adequate to cover for aspiration; the risk of
   atypical infection in aspiration would seem to be low.  This does not
   appear to be a primary pneumonia.
     * Hemodynamics
 appears hypovolemic at present.  Will volume
       challenge, although with some care given low EF.
     * Drotrecogin
 doesn
t meet criteria
     * Steroids
 cortstym appropriate
     * Urine cx >100,000 GNR, f/u speciation, continue tobramycin
     * Pull PICC line if cx positive
     * Sputum cx not acceptable
     * Swithced foley yesterday
   Decubitus ulcers
     * Quite long-standing
     * Wound care and plastics consult.  [**Month (only) 60**] need additional imaging for
       osteo.
     * Evaluated by plastics
     * Gram stain 1+ polys and 2+ GNR
   PE s/p IVC filter:
     * Hold warfarin today; goal INR 2
 3.  Monitor closely.  If he does
       not continue his rapid improvement, convert to heparin and hold
       warfarin. Multiple abx on board likely affecting level
   CAD/CHF (systolic, chronic)
          No evidence of volume overload.  Hold antihypertensives;
   continue aspirin.
          His troponin is elevated, but appears to be chronically so
   (for unclear reasons)
 does not appear to be ACS/unstable plaque.
          Ruled out for ACS with 3 negative enzymes
   ANEMIA
   - stool guiacs, likely due to IVF, will monitor
   Seizure disorder
     * Continue keppra
   Code status
     * Full code
   Comminication
     * With patient; will email [**Doctor First Name 845**] Cahners, who follows him at [**Hospital1 723**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2106-6-8**] 02:02 AM
   18 Gauge - [**2106-6-8**] 02:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-06-09 10:42:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   three sets of enzymes negative
   urine > 100k GNR, sensi pending
   3.5 L NS for low BP
   stim 14 to 27
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-6-8**] 08:00 PM
   Tobramycin - [**2106-6-8**] 09:40 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-6-9**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-9**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 87 (71 - 103) bpm
   BP: 82/56(63) {73/44(51) - 110/78(165)} mmHg
   RR: 17 (9 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 76 kg
   Height: 71 Inch
             Total In:
                                                                  4,422 mL
                                                                  1,424 mL
   PO:
                                                                    400 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  4,022 mL
                                                                  1,304 mL
   Blood products:
   Total out:
                                                                  2,525 mL
                                                                  1,310 mL
   Urine:
                                                                  2,525 mL
                                                                  1,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,897 mL
                                                                    114 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.3 g/dL
   317 K/uL
   92 mg/dL
   0.4 mg/dL
   20 mEq/L
   2.8 mEq/L
   4 mg/dL
   116 mEq/L
   143 mEq/L
   22.5 %
   4.7 K/uL
        [image002.jpg]
                             [**2106-6-8**]  02:20 AM
                             [**2106-6-8**]  07:21 AM
                             [**2106-6-8**]  02:53 PM
                             [**2106-6-9**]  03:25 AM
   WBC
   6.2
   4.7
   Hct
   26.7
   22.5
   Plt
   226
   317
   Cr
   0.4
   0.4
   TropT
   0.15
   0.18
   Glucose
   83
   92
   Other labs: PT / PTT / INR:38.5/38.6/4.1, CK / CKMB /
   Troponin-T:145/6/0.18, Ca++:7.3 mg/dL, Mg++:1.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Assessment/Plan:
   68-year-old man with shock - on a background history of T4 paraplegia
   (?myelitis) complicated by decubiti, neurogenic bladder, PEs and UTIs.
   1. Sepsis: Hemodynamics have improved , interestingly he is able to
   maintain mentation and urination in the face of MAP as low as 50 -
   Issues:
   a. GNR in urine - on Zosyn and Tobra, awaiting sensi
   b. PICC - cultures pending
   c. sacral decub- abnl CT, cx pemding, follow up with plastics
   d. PNA: likely asp, continue Vanco, Zosyn, follow up cx
   2. Hemodynamics
 tolerated volume resusitation without resp distress.
   3. PE s/p IVC filter:
   Hold warfarin today; goal INR 2
 3.  Monitor closely.  If he does not
   continue his rapid improvement, convert to heparin and hold warfarin.
   CAD/CHF (systolic, chronic)
          No evidence of volume overload.  Hold antihypertensives;
   continue aspirin.
          His troponin is elevated, but appears to be chronically so
   (for unclear reasons)
 does not appear to be ACS/unstable plaque.
   Seizure disorder: Continue keppra
   Code status : Full code
   Communication : With patient; will email [**Doctor First Name 845**] Cahners, who follows him
   at [**Hospital1 723**].
   Other issues as per ICU team note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2106-6-8**] 02:02 AM
   18 Gauge - [**2106-6-8**] 02:04 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2106-06-10 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2106-6-9**] 05:57 PM
   -Urine cultures growing >100,000 Acinetobacter, tobramycin sensitive.
   Tobramycin level at 2130 0.9 (low)
   -Desaturation in setting mucus plug, associated with transient
   hypotension, resolved with suction, no IVF given
   -Plastics never came by to re-assess wound
   -Zosyn was stopped to narrow coverage
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-6-9**] 03:05 PM
   Vancomycin - [**2106-6-9**] 08:00 PM
   Tobramycin - [**2106-6-9**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-10**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 77 (70 - 98) bpm
   BP: 101/69(77) {67/46(51) - 107/69(79)} mmHg
   RR: 10 (10 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 76 kg
   Height: 71 Inch
             Total In:
                                                                  3,290 mL
                                                                    372 mL
   PO:
                                                                    600 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  2,690 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,415 mL
                                                                    770 mL
   Urine:
                                                                  2,415 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    875 mL
                                                                   -398 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   377 K/uL
   7.6 g/dL
   84 mg/dL
   0.4 mg/dL
   21 mEq/L
   3.8 mEq/L
   3 mg/dL
   116 mEq/L
   143 mEq/L
   24.1 %
   6.3 K/uL
        [image002.jpg]
                             [**2106-6-8**]  02:20 AM
                             [**2106-6-8**]  07:21 AM
                             [**2106-6-8**]  02:53 PM
                             [**2106-6-9**]  03:25 AM
                             [**2106-6-9**]  02:57 PM
                             [**2106-6-10**]  05:30 AM
   WBC
   6.2
   4.7
   6.3
   Hct
   26.7
   22.5
   23.9
   24.1
   Plt
   [**Telephone/Fax (3) 2484**]
   Cr
   0.4
   0.4
   0.4
   0.4
   TropT
   0.15
   0.18
   Glucose
   83
   92
   89
   84
   Other labs: PT / PTT / INR:36.1/37.8/3.8, CK / CKMB /
   Troponin-T:145/6/0.18, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: tobramycin Level 0.7
   Imaging: CXR: compared to prior radiograph, the lung volumes are
   slightly decreased.
   Increased opacity is seen in the right lung base, which may represent
   early
   consolidation/aspiration versus atelectasis. streaky opacity in the
   left lung
   base likely represents atelectasis. no pleural effusion or
   pneumothorax.
   [**Doctor Last Name 775**] [**Numeric Identifier 1111**]
   Microbiology: Sputum:
   GRAM STAIN (Final [**2106-6-10**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
         1+    (<1 per 1000X FIELD):   YEAST(S).
   Assessment and Plan
   68-year-old man with severe shock (source most likely decub, but UTI
   and PICC line also in DDx) on a background history of T4 paraplegia
   (?myelitis) complicated by decubiti, neurogenic bladder, PEs and UTIs.
   Sepsis. Patient now appears to be at baseline BP.  Variability likely
   [**3-13**] to previously documented autonomic dysfunction.
     * ABX
 Currently on vanco (empiric) and tobra (for UTI)
 will
       continue vancomycin at this time given concern for underlying
       osteomyelitis
 ulcer probes to bone with elevated ESR.  Feel ESR
       elevation c/w partial treatment as patient has been on antibiotics
       for some time although MRI earlier this year w/o e/o osteo.
         CXR tday with increasing suggestion of pneumonia with desat
   o/n [**3-13**] mucous plugging, no fever or wbc count.  Would continue to
   obtain sputum culture at this time.  Continue tobramycin for UTI for
   total 7 days and will cover aspiration pneumonia as well.  Need
   decision regarding course of antibiotics for osteomyelitis and need to
   cover MRSA in this regard.
         Suctioning for aspiration
         Incentive spirometer
     * Hemodynamics
 At baseline BP.  Volume PRN.  Autonomic dysfunction.
     * Drotrecogin
 doesn
t meet criteria
     * Steroids
 cortstym appropriate
     * Urine cx >100,000 Acinetobacter
 on Tobramycin, adjust dose this
       AM as subtherapeutic.
     * Pull PICC line if cx positive
     * Sputum cx not acceptable, will resend
     * Foley changed on admission
   Decubitus ulcers
     * Quite long-standing
     * Wound care and plastics consult.  [**Month (only) 60**] need additional imaging for
       osteo.
     * Evaluated by plastics, will discuss the need to image with plastics
       team
     * Gram stain 1+ polys and 2+ GNR, no speciation
   PE s/p IVC filter:
     * Hold warfarin today; goal INR 2
 3.  Monitor closely.  If he does
       not continue his rapid improvement, convert to heparin and hold
       warfarin. Multiple abx on board likely affecting level.
   CAD/CHF (systolic, chronic)
          No evidence of volume overload.  Hold antihypertensives;
   continue aspirin.
          His troponin is elevated, but appears to be chronically so
   (for unclear reasons)
 does not appear to be ACS/unstable plaque.
          Ruled out for ACS with 3 negative enzymes
   ANEMIA
   - stool guiacs, likely due to IVF, will monitor
   - PM CBC stable and at baseline from previous admissions.
   Seizure disorder
     * Continue keppra
   Code status
     * Full code
   Comminication
     * With patient; will email [**Doctor First Name 845**] Cahners, who follows him at [**Hospital1 723**].
   Dispo: Call out to floor today vs. transfer directly home.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2106-6-8**] 02:02 AM
   18 Gauge - [**2106-6-8**] 02:04 AM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-06-10 10:04:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2106-6-9**] 05:57 PM
   Mucus plugg with desats-0 required NT suctioning with improvement. Was
   hypotense during but improved without intervention.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-6-9**] 03:05 PM
   Tobramycin - [**2106-6-9**] 10:00 PM
   Vancomycin - [**2106-6-10**] 08:19 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2106-6-10**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 96 (70 - 98) bpm
   BP: 101/75(81) {67/46(51) - 114/75(81)} mmHg
   RR: 21 (10 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 76 kg
   Height: 71 Inch
             Total In:
                                                                  3,290 mL
                                                                    657 mL
   PO:
                                                                    600 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,690 mL
                                                                    297 mL
   Blood products:
   Total out:
                                                                  2,415 mL
                                                                  1,150 mL
   Urine:
                                                                  2,415 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    875 mL
                                                                   -493 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   377 K/uL
   84 mg/dL
   0.4 mg/dL
   21 mEq/L
   3.8 mEq/L
   3 mg/dL
   116 mEq/L
   143 mEq/L
   24.1 %
   6.3 K/uL
        [image002.jpg]
                             [**2106-6-8**]  02:20 AM
                             [**2106-6-8**]  07:21 AM
                             [**2106-6-8**]  02:53 PM
                             [**2106-6-9**]  03:25 AM
                             [**2106-6-9**]  02:57 PM
                             [**2106-6-10**]  05:30 AM
   WBC
   6.2
   4.7
   6.3
   Hct
   26.7
   22.5
   23.9
   24.1
   Plt
   [**Telephone/Fax (3) 2484**]
   Cr
   0.4
   0.4
   0.4
   0.4
   TropT
   0.15
   0.18
   Glucose
   83
   92
   89
   84
   Other labs: PT / PTT / INR:36.1/37.8/3.8, CK / CKMB /
   Troponin-T:145/6/0.18, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Microbiology: Induced 1 + GPC and yeast
   Assessment and Plan
   Assessment and Plan: 68-year-old man with shock - on a background
   history of T4 paraplegia (? myelitis) complicated by decubiti,
   neurogenic bladder, PEs and UTIs.
   1. Sepsis: Hemodynamics have improved overall though pccassional low
   BP
s this am and getting bolused now, interestingly he is able to
   maintain mentation and urination in the face of MAP as low as 50.
   Issues:
   a. GNR in urine - on Zosyn and Tobra, awaiting sensi
   b. PICC - cultures pending
   c. sacral decub- abnl CT, cx pending, follow up with plastics on how
   plan to manage potential osteo
   d. PNA: likely asp, continue Vanco, Zosyn, follow up cx
   2. Hemodynamics
 tolerated volume resusitation without resp distress,
   need to watch
   3. PE s/p IVC filter - Hold warfarin today; goal INR 2
 3.  Monitor
   closely.
   4. CAD/CHF (systolic, chronic)
          No evidence of volume overload.  Continue aspirin. [**Month (only) 60**] be
   able to restart regimen
          His troponin is elevated, but appears to be chronically so
   (for unclear reasons)
 does not appear to be ACS/unstable plaque.
   5. Seizure disorder: Continue keppra
   Code status : Full code
   Communication : With patient; will email [**Doctor First Name 845**] Cahners, who follows him
   at [**Hospital1 723**].
   Other issues as per ICU team note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2106-6-8**] 02:02 AM
   18 Gauge - [**2106-6-8**] 02:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2106-06-11 07:10:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   24 Hour Events:
   Surgery: Feels the wound is well cared for with good granulation tissue
   and not source of infection.  Agree probes to bone and has underlying
   osteo but do not feel it fits clinical picture.  Felt peri-rectal
   inflammation was likely [**3-13**] to chronic open wound and not infectious
   source - visualized on previous imaging as well.  Could perform
   diverting colostomy to prevent fecal contamination of wound and
   plastics could perform wound culture but not pushing to do it.
   - Opted for MRI to eval for interval change in bone inflammation since
   scan 30 days prior.  Will consider treatment if e/o new infection.
   - Added Albumin 2.1 -> nutrition consult.
   - Wrote for guaifenasin.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-6-9**] 03:05 PM
   Vancomycin - [**2106-6-10**] 08:19 AM
   Tobramycin - [**2106-6-10**] 10:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-6-10**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Chest pain, improved from admission
   Respiratory: Cough
   Flowsheet Data as of  [**2106-6-11**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.3
   HR: 87 (71 - 98) bpm
   BP: 94/58(66) {77/47(54) - 114/75(81)} mmHg
   RR: 13 (5 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 76 kg
   Height: 71 Inch
             Total In:
                                                                  1,120 mL
                                                                    130 mL
   PO:
                                                                    580 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    540 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  2,770 mL
                                                                    990 mL
   Urine:
                                                                  2,770 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,650 mL
                                                                   -860 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, stage 4 decub ulcers on back
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   385 K/uL
   7.7 g/dL
   91 mg/dL
   0.4 mg/dL
   22 mEq/L
   3.7 mEq/L
   3 mg/dL
   112 mEq/L
   140 mEq/L
   24.4 %
   6.2 K/uL
        [image002.jpg]
                             [**2106-6-8**]  02:20 AM
                             [**2106-6-8**]  07:21 AM
                             [**2106-6-8**]  02:53 PM
                             [**2106-6-9**]  03:25 AM
                             [**2106-6-9**]  02:57 PM
                             [**2106-6-10**]  05:30 AM
                             [**2106-6-11**]  04:50 AM
   WBC
   6.2
   4.7
   6.3
   6.2
   Hct
   26.7
   22.5
   23.9
   24.1
   24.4
   Plt
   [**Telephone/Fax (3) 2496**]85
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   TropT
   0.15
   0.18
   Glucose
   83
   92
   89
   84
   91
   Other labs: PT / PTT / INR:32.4/36.9/3.4, CK / CKMB /
   Troponin-T:145/6/0.18, Albumin:2.1 g/dL, Ca++:7.8 mg/dL, Mg++:1.7
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   68-year-old man with severe shock (source most likely decub, but UTI
   and PICC line also in DDx) on a background history of T4 paraplegia
   (?myelitis) complicated by decubiti, neurogenic bladder, PEs and UTIs.
   # Sepsis. Patient now appears to be at baseline BP.  Variability likely
   [**3-13**] to previously documented autonomic dysfunction.
   ABX
 Currently on tobra (for UTI)
 stopped vanco [**6-10**], zosyn [**6-9**]
         Continue tobramycin for UTI for total 7 days and will cover
   aspiration pneumonia as well.  MRI to evaluate for osteo today.
         Suctioning for aspiration
         Incentive spirometer
   Hemodynamics
 At baseline BP.  Volume PRN.  Autonomic dysfunction.
   Drotrecogin
 doesn
t meet criteria
   Steroids
 cortstym appropriate
   Urine cx >100,000 Acinetobacter
 on Tobramycin, adjust dose this AM as
   subtherapeutic.
   Pull PICC line if cx positive
   Sputum cx [**6-9**] 1+ gram +cocci in pairs, 1+ yeast, cx pending
   Foley changed on admission
   # Decubitus ulcers:
   Quite long-standing
   MRI L spine today
   Plastics and gen [**Doctor First Name 458**] do not think actively infected.
   Gram stain 1+ polys and 2+ GNR, no speciation
   # PE s/p IVC filter:
   Hold warfarin today; goal INR 2
 3.  Monitor closely.  If he does not
   continue his rapid improvement, convert to heparin and hold warfarin.
   Multiple abx on board likely affecting level.
   # CAD/CHF (systolic, chronic)
          No evidence of volume overload.  Hold antihypertensives;
   continue aspirin.
          His troponin is elevated, but appears to be chronically so
   (for unclear reasons)
 does not appear to be ACS/unstable plaque.
          Ruled out for ACS with 3 negative enzymes
   # Anemia
   - stool guiacs, likely due to IVF, will monitor
   - PM CBC stable and at baseline from previous admissions.
   # Seizure disorder
   Continue keppra
   # Code status
   Full code
   # Comminication
   With patient; will email [**Doctor First Name 845**] Cahners, who follows him at [**Hospital1 723**].
   # Dispo: Call out to floor today vs. transfer directly home.
   ICU Care
   Nutrition:
   Comments: S&S advanced diet thin liquids, soft solids
   Glycemic Control:
   Lines:
   PICC Line - [**2106-6-8**] 02:02 AM
   18 Gauge - [**2106-6-8**] 02:04 AM
   Prophylaxis:
   DVT: IVC filter, supra INR
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Floor today vs rehab

2106-06-11 09:38:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Gen [**Doctor First Name **] agrees probes to bone, favor osteo, plan for MRI
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-6-9**] 03:05 PM
   Vancomycin - [**2106-6-10**] 08:19 AM
   Tobramycin - [**2106-6-10**] 10:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Oxycpdone, folate, Actigall, ASA baclofen Neurontin Keppra Advair
   Celexa Lipitor Tobra
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-11**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.7
   HR: 77 (71 - 98) bpm
   BP: 102/70(76) {77/38(48) - 112/71(80)} mmHg
   RR: 16 (5 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 76 kg
   Height: 71 Inch
             Total In:
                                                                  1,120 mL
                                                                    206 mL
   PO:
                                                                    580 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    540 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                  2,770 mL
                                                                  1,175 mL
   Urine:
                                                                  2,770 mL
                                                                  1,175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,650 mL
                                                                   -969 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   Gen: sitting up in bed, conversant, more interactive today
   CV: RR
   Chest: coarse bs bilat.
   Abd: soft +bs
   Ext: multipodus boots in place
   Neuro: A and O x 3, cn grossly in tact
   Labs / Radiology
   7.7 g/dL
   385 K/uL
   91 mg/dL
   0.4 mg/dL
   22 mEq/L
   3.7 mEq/L
   3 mg/dL
   112 mEq/L
   140 mEq/L
   24.4 %
   6.2 K/uL
        [image002.jpg]
                             [**2106-6-8**]  02:20 AM
                             [**2106-6-8**]  07:21 AM
                             [**2106-6-8**]  02:53 PM
                             [**2106-6-9**]  03:25 AM
                             [**2106-6-9**]  02:57 PM
                             [**2106-6-10**]  05:30 AM
                             [**2106-6-11**]  04:50 AM
   WBC
   6.2
   4.7
   6.3
   6.2
   Hct
   26.7
   22.5
   23.9
   24.1
   24.4
   Plt
   [**Telephone/Fax (3) 2496**]85
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   TropT
   0.15
   0.18
   Glucose
   83
   92
   89
   84
   91
   Other labs: PT / PTT / INR:32.4/36.9/3.4, CK / CKMB /
   Troponin-T:145/6/0.18, Albumin:2.1 g/dL, Ca++:7.8 mg/dL, Mg++:1.7
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Assessment and Plan: 68-year-old man with shock - on a background
   history of T4 paraplegia (? myelitis) complicated by decubiti,
   neurogenic bladder, PEs and UTIs.
   1. Sepsis: Hemodynamics have improved overall and we now have
   documentation of autonomic instability in prior hx which may have
   contributed to initial BP lability though clearly shock due to
   urosepsis was a component.
   Issues:
   a. GNR in urine
 Acinetobacter sensi to tobra plan 7 days, adjusted by
   last pk and trough
   b. PICC - cultures pending neg to date will maintain
   c. sacral decub- abnl CT, plastics feels bone bx not indicated. Gen
   [**Doctor First Name **] also commented that do not think acute issue( even with peri
   rectal stranding on CT) but we still favor MRI for comparison to last
   to see if active evidence of osteo
   If unchanged, no need for 6 weeks of Rx
   2. PE s/p IVC filter - Hold warfarin today; goal INR 2
 3.  Monitor
   closely.
   3. CAD/CHF (systolic, chronic)
       No evidence of volume overload.  Continue aspirin. [**Month (only) 60**] be able to
   restart regimen
   4. Seizure disorder: Continue keppra
   Code status : Full code
   Communication : With patient; will email [**Doctor First Name 845**] Cahners, who follows him
   at [**Hospital1 723**].
   Other issues as per ICU team note.
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   PICC Line - [**2106-6-8**] 02:02 AM
   18 Gauge - [**2106-6-8**] 02:04 AM
   Prophylaxis:
   DVT: sq heparion
   Stress ulcer: PPI
   Communication:  [**First Name4 (NamePattern1) 845**]
   [**Last Name (NamePattern1) 66**] status: Full code
   Disposition : possible tx back to [**Hospital1 723**] after MRI
   Total time spent: 40